Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Pancreatic neuroendocrine tumor.

 
Major Surgical or Invasive Procedure:
___: Laparoscopic enucleation of pancreatic mass.

 
History of Present Illness:
The patient is a ___ gentleman with significant past 
medical history including a longstanding history of 
gastroesophageal reflux disease, persistent dyspepsia, and 
___ esophagus. Abdominal CT angiogram demonstrates small 
lesion in the body and tail of the pancreas which enhances as 
might be a neuroendocrine. The patient has had an endoscopic 
ultrasound with fine-needle aspirate by Dr. ___ 
suggested cytology for potential atypical cells. The  patient 
also has an elevated chromogranin A of 90 and a gastrin level 
originally at around 300, which nearly doubled to 548 after he 
had been off his proton pump inhibitors for two weeks.  This is 
all highly suggestive of a functioning gastrinoma. The patient 
was evaluated by Dr. ___ was scheduled for elective 
laparoscopic vs. open resection on ___. 

 
 
Past Medical History:
- Colon polyps. Colonoscopy ___ adenoma. Colon ___ adenomas, 
diverticulosis.
-Extensive diverticulosis
- CVA in ___
- GERD-diagnosed in ___.
- ___ ___
- Duodenal ulcer remote - HP treatment
- Barretts
- Pancreatic Cysts-Pancreatic tail lesion on ___ on CAT scan. 
MRCP-1 cm dense cyst with a dense wall ___ - EUS.
- ___ Tear  
- Mitral valve fibroelastoma  
- HTN  
- HL  
- lumbar radiculopathy  
- migraines  
- h/o diarrheal illness - C. diff, ___ stain negative.  Small 
bowel x-ray negative.  Colonoscopy no evidence for microscopic 
colitis, TI normal ___.  
- allergies  
- left inguinal hernia 
- hepatitis A       
 
Social History:
___
Family History:
Father - died of colon cancer, no other GI cancers in the family 
or any chronic intestinal diseases 

 
Physical Exam:
On Discharge:
VS: 99.6, 60, 139/57, 16, 94% RA
GEN: NAD, Somewhat anxious
CV: RRR, no m/r/g
Lungs: CTAB
Abd: Laparoscopic incisions (5) open to air with steri strips, 
RLQ JP drain to bulb, site c/d/i
extr: Warm, no c/c/e
 
Pertinent Results:
___ 07:45AM BLOOD WBC-10.0 RBC-4.28* Hgb-12.6* Hct-37.2* 
MCV-87 MCH-29.5 MCHC-34.0 RDW-14.3 Plt ___
___ 07:45AM BLOOD Glucose-135* UreaN-6 Creat-0.8 Na-135 
K-4.2 Cl-102 HCO3-22 AnGap-15

___ 06:25AM BLOOD WBC-10.6 RBC-4.33* Hgb-12.6* Hct-36.9* 
MCV-85 MCH-29.0 MCHC-34.1 RDW-14.2 Plt ___
___ 10:10AM BLOOD Glucose-128* UreaN-10 Creat-0.8 Na-138 
K-4.5 Cl-99 HCO3-28 AnGap-16
___ 02:55AM BLOOD CK(CPK)-222
___ 06:25AM BLOOD Calcium-8.1* Phos-3.2 Mg-1.8
___ 08:54AM ASCITES ___

                          Pathology Examination 

SPECIMEN SUBMITTED: Pancreatic Body Mass.

Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___ 
Previous biopsies:    ___  GI BX (3 JARS) 
  ___  GI BX'S (3 JARS) 
  ___  GI BX ( 5 JARS) 
  ___  right nose 
(and more) 

DIAGNOSIS: 
Pancreatic body mass, enucleation:

Pancreatic endocrine tumor, well differentiated, 0.9 cm in 
greatest dimension; see note and synoptic report.

Note:  Demonstrated is a well-circumscribed nodular tumor 
excision without adjacent pancreatic parenchyma.  The tumor 
cells are arranged in cords and nests with focal densely 
sclerotic fibrosis and have relatively monomorphic nuclei with 
evenly dispersed chromatin and tiny nucleoli.  No necrosis is 
seen. Mitoses are inconspicuous, however, prominent 
cautery/crush artifact precludes evaluation of many areas. A 
thin rim of fibrous tissue (measuring on average 1-2 mm) is 
present around a majority of the lesion, however, it is focally 
disrupted, and cauterized/crushed tumor is present at ink in 
these areas 

Immunohistochemical stains of the tumor are positive for 
cytokeratin cocktail, chromogranin and synaptophysin, with 
satisfactory controls, supporting the morphologic diagnosis. No 
definitive staining for gastrin is identified (clinical history 
of elevated gastrin level is noted). 

Pancreas (Endocrine): Resection Synopsis
Staging according to ___ Joint Committee on Cancer Staging 
Manual -- ___ Edition, ___

MACROSCOPIC
 
Specimen Type:  Excisional biopsy (enucleation).
 
Other organs/Tissues Received:  None.
 
Tumor Site:  Pancreatic tail.
 
Tumor focality:  Unifocal.
 
Tumor Size
    Greatest dimension:  0.9 cm.
 
MICROSCOPIC
 
Functionality type:  Pancreatic endocrine tumor, functional 
(correlation with clinical syndrome and/or elevated serum levels 
of hormone product):  Gastrin.
 
WHO Classification:  Well-differentiated endocrine tumor, benign 
behavior (Confined to pancreas, <2 cm, no angioinvasion or 
perineural invasion,  <2 mitoses per 10 HPF).
 
Mitotic activity:  Less than 2 mitoses/10 High Power Fields.
 
Tumor necrosis:  Not identified.
 
MICROSCOPIC TUMOR OF EXTENSION
 
Margins:  Cannot be determined (enucleation with focally 
disrupted per-tumoral fibrous tissue).
 
Primary Tumor:  Tumor confined to pancreas (radiographically).
 
Primary Tumor (pT):  pT1: Tumor limited to pancreas, 2 cm or 
less in greatest dimension.
 
Regional Lymph Nodes (pN):  pNX:  Cannot be assessed.
 
Lymph Nodes:  None submitted.
 
Distant metastasis (pM):  pMX:  Cannot be assessed.
 
Lymphatic/vascular Invasion:  Absent.
 
Perineural invasion:  Absent. 

Clinical:  Pancreatic mass. 

___ CXR:
IMPRESSION: Bibasilar atelectasis and effusions with mild 
perihilar 
interstitial edema. Fluid overload would be a consideration. 

 
Brief Hospital Course:
The patient with possible pancreatic neuroendocrine tumor was 
admitted to the HPB Surgery Service for elective resection. On 
___, the patient underwent laparoscopic enucleation of 
pancreatic mass, which went well without complication (reader 
referred to the Operative Note for details). After a brief, 
uneventful stay in the PACU, the patient arrived on the floor 
tolerating clears, on IV fluids, with a foley catheter and a JP 
drain in place, and PO Dilaudid for pain control. The patient 
was hemodynamically stable.
Neuro: The patient received PO Dilaudid with good effect and 
adequate pain control.  CV: The patient had one episode of rate 
control atrial fibrillation post op. The patient was restarted 
on his home cardiac medications, follow up ECG was normal. The 
patient remained stable from a cardiovascular standpoint; vital 
signs were routinely monitored.
Pulmonary: The patient has a long history of smoking and quit 
right before the operation. Post op he was required to have 2L 
of supplemental O2 to maintain O2 saturation above 90%. The 
oxygen was weaned off on POD # 4, the patient remained stable 
from a pulmonary standpoint.
GI/GU/FEN: Post-operatively, the patient was made NPO with IV 
fluids. Diet was advanced when appropriate, which was well 
tolerated. The patient reporter low appetite post op. JP amylase 
was checked on POD # 3 and was high (___), the patient was 
discharged home with JP drain to bulb. The amylase level will be 
checked again as outpatient on ___. Patient's intake and 
output were closely monitored, and IV fluid was adjusted when 
necessary.  Electrolytes were routinely followed, and repleted 
when necessary.
Endocrine: The patient's blood sugar was monitored throughout 
his stay; insulin dosing was adjusted accordingly.
Hematology: The patient's complete blood count was examined 
routinely; no transfusions were required.
Prophylaxis: The patient received subcutaneous heparin and 
venodyne boots were used during this stay; was encouraged to get 
up and ambulate as early as possible.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
lipitor 20, colestipol 2, folic acid 1, lisinopril 10, 
mirtazapine 15, prilosec 40, sertraline 100, verapamil 240, asa 
325 
 
Discharge Medications:
1. lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. atorvastatin 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. folic acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. mirtazapine 15 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
5. omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
6. sertraline 100 mg Tablet Sig: One (1) Tablet PO once a day.  
7. verapamil 240 mg Cap,Ext Release Pellets 24 hr Sig: One (1) 
Cap,Ext Release Pellets 24 hr PO once a day.  
8. Colestid 1 gram Tablet Sig: Two (2) Tablet PO once a day.  
9. aspirin 325 mg Tablet Sig: One (1) Tablet PO once a day: 
please start 5 days after the operation.  
10. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*
11. nicotine 21 mg/24 hr Patch 24 hr Sig: One (1) Patch 24 hr 
Transdermal DAILY (Daily).
Disp:*30 Patch 24 hr(s)* Refills:*2*
12. hydromorphone 2 mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pancreatic neuroendocrine tumor.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
Incision Care:
*Please call your doctor or nurse practitioner if you have 
increased pain, swelling, redness, or drainage from the incision 
site.
*Avoid swimming and baths until your follow-up appointment.
*You may shower, and wash surgical incisions with a mild soap 
and warm water.  Gently pat the area dry.
*If you have staples, they will be removed at your follow-up 
appointment.
*If you have steri-strips, they will fall off on their own.  
Please remove any remaining strips ___ days after surgery.
JP Drain Care:
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*Maintain suction of the bulb.
*Note color, consistency, and amount of fluid in the drain.  
Call the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character.
*Be sure to empty the drain frequently.  Record the output, if 
instructed to do so.
*You may shower; wash the area gently with warm, soapy water.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.

 
Followup Instructions:
___